US07795283B2
1-{5-[({5-[(2-Fluorophenyl)amino]-1,3,4-oxadiazol-2-yl}carbonyl)amino]pyridin-2-yl}piperidine-4-carboxylic acid hydrochloride
TFA (0.307 mL; 4.0 mmol) was added to a suspension of tert-Butyl 1-{5-[({5-[(2-fluorophenyl)amino]-1,3,4-oxadiazol-2-yl}carbonyl)amino]pyridin-2-yl}piperidine-4-carboxylate (483 mg; 1.0 mmol) in DCM (5 mL). After 3 days more TFA was added in aliquots (0.31 mL) over 2 days then HCl (1 mL of a 4M solution in 1,4-dioxan) was added. After 24 h the mixture was filtered and the solid was washed with ether and dried under vacuum at 60° C. to give the title compound (193 mg, 42%) as a solid; 1H NMR δ1.55-1.74 (m, 2H), 1.88-2.06 (m, 2H), 2.56-2.69 (m, 1H), 2.69-2.81 (m, 1H), 3.18-3.35 (m, 2H), 4.17 (d, 2H), 7.13-7.22 (m, 1H), 7.24-7.31 (m, 1H), 7.31-7.37 (m, 1H), 7.44 (d, 1H), 7.98-8.09 (m, 1H), 8.19-8.28 (m, 1H), 8.51-8.59 (m, 1H), 10.87 (s, 1H), 11.37 (s, 1H); MS m/e MH+ 427.

reactant | TFA | 4.0 mmol, 0.307 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | tert-Butyl 1-{5-[({5-[(2-fluorophenyl)amino]-1,3,4-oxadiazol-2-yl}carbonyl)amino]pyridin-2-yl}piperidine-4-carboxylate | 1.0 mmol, 483 mg | FC1=C(C=CC=C1)NC1=NN=C(O1)C(=O)NC=1C=CC(=NC1)N1CCC(CC1)C(=O)OC(C)(C)C | C24H27FN6O4
reactant | HCl | Cl | ClH
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
solvent | 1,4-dioxan | O1CCOCC1 | C4H8O2
product | 1-{5-[({5-[(2-Fluorophenyl)amino]-1,3,4-oxadiazol-2-yl}carbonyl)amino]pyridin-2-yl}piperidine-4-carboxylic acid hydrochloride | 193 mg, 42% | Cl.FC1=C(C=CC=C1)NC1=NN=C(O1)C(=O)NC=1C=CC(=NC1)N1CCC(CC1)C(=O)O | InChI=1S/C20H19FN6O4.ClH/c21-14-3-1-2-4-15(14)24-20-26-25-18(31-20)17(28)23-13-5-6-16(22-11-13)27-9-7-12(8-10-27)19(29)30;/h1-6,11-12H,7-10H2,(H,23,28)(H,24,26)(H,29,30);1H
